US05494928
A suspension of 0.26 g of sodium hydride dispersion in 35 ml of tetrahydrofuran was treated with 0.97 g of 6-fluoroindole at 0° and stirred at this temperature for 1 hour. After the addition of 1 ml of (RS)-methyloxirane the reaction mixture was stirred at room temperature for 48 hours and subsequently treated with 7 ml of water. The mixture was diluted with 180 ml of ether, washed twice with 90 ml of water and with 50 ml of saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 28 g of silica gel with toluene-ethyl acetate (19:1). There were obtained 1.1 g (79.3%) of (RS)-1-(6-fluoro-indol-1-yl)-propan-2-ol as a colourless oil.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 6-fluoroindole | 0.97 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | (RS)-methyloxirane | 1 ml | CC1OC1 | C3H6O
reactant | water | 7 ml | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ether | 180 ml | CCOCC | C4H10O
product | (RS)-1-(6-fluoro-indol-1-yl)-propan-2-ol | 1.1 g, 79.3% | FC1=CC=C2C=CN(C2=C1)CC(C)O | C11H12FNO
